US05202318
A solution of 1,8-naphthalic anhydride (1.9 g, 9.6 mmol) and (RS)-3-amino-1-azabicyclo[2.2.2]octane (1.2 g, 9.5 mmol) in n-butanol (100 mL) was stirred for 3 hours at reflux temperature and the solution concentrated to dryness. Purification of the remaining solid by column chromatography (silica-gel; 5-10% gradient methanol in CH2Cl2 and approximately 1% aqueous NH4OH) gave (RS)-2-(1-azabicyclo[2.2.2]oct-3-yl)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione (2.45 g, 7.95 mmol), m.p. 206°-207° C.

reactant | 1,8-naphthalic anhydride | 9.6 mmol, 1.9 g | C=1C=C2C=CC=C3C2=C(C1)C(=O)OC3=O | C12H6O3
reactant | (RS)-3-amino-1-azabicyclo[2.2.2]octane | 9.5 mmol, 1.2 g | NC1CN2CCC1CC2 | C7H14N2
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | (RS)-2-(1-azabicyclo[2.2.2]oct-3-yl)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione | 7.95 mmol, 2.45 g | N12CC(C(CC1)CC2)N2C(C1=CC=CC=3C1=C(C2=O)C=CC3)=O | C19H18N2O2
